US04980356
The procedure is as in Example 3, starting with N-methyl-2-(p-trifluoromethoxyanilino)ethanesulphonamide (3.5 g), potassium thiocyanate (4.7 g) and bromine (2.2 g) in acetic acid (30 cc). After 18 hours at a temperature in the region of 20° C., neutralization with 30% strength sodium hydroxide and extraction with ethyl acetate, a crude product is obtained, which product is converted to a hydrochloride by adding 4.2N ethereal hydrogen chloride (3 cc) in ethanol (25 cc) and recrystallized in absolute ethanol (50 cc). The N-methyl-2-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanesulphonamide hydrochloride thereby obtained (2.1 g) melts at 242° C.

reactant | N-methyl-2-(p-trifluoromethoxyanilino)ethanesulphonamide | 3.5 g | CNS(=O)(=O)CCNC1=CC=C(C=C1)OC(F)(F)F | C10H13F3N2O3S
reactant | potassium thiocyanate | 4.7 g | [S-]C#N.[K+]
reactant | bromine | 2.2 g | BrBr | Br2
reactant | hydrochloride | Cl | ClH
reactant | hydrogen chloride | 4.2N, 3 cc | Cl | ClH
solvent | acetic acid | 30 cc | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 cc | C(C)O | C2H6O
product | N-methyl-2-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanesulphonamide hydrochloride | Cl.CNS(=O)(=O)CCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | InChI=1S/C11H12F3N3O3S2.ClH/c1-16-22(18,19)5-4-17-8-3-2-7(20-11(12,13)14)6-9(8)21-10(17)15;/h2-3,6,15-16H,4-5H2,1H3;1H
